US06248765B1
In a reaction flask equipped for hydrogenation, 10 g of urocanic acid (72.4 mmol) are dissolved in 200 ml of water. 1 g of Pd/C (10%) are added and hydrogenation is performed at 50° C. for 4 hours. The catalyst is filtered off and the water evaporated off, giving 3-(4-imidazolyl)propionic acid which appears in the form of a white powder (8.8 g; 86%); m.p.: 209-211° C. (3-Imidazol-4-yl)propionic acid (6 g, 42 mmol) is dissolved in absolute ethanol (204 ml), and a catalytic amount of concentrated sulphuric acid (2 ml) is added. The resulting mixture is heated to reflux for 16 hours. The solvent is evaporated off, which gives an oily residue which is dissolved in 45 ml of water. The solution is neutralized with sodium hydrogencarbonate, and 4-(3-carboethoxypropyl)-1H-imidazole is extracted with ethyl acetate; an oil (5.1 g; 72%) is obtained. The 4-(3-carboethoxypropyl)-1H-imidazole (5.4 g, 32 mmol) is dissolved in 4 ml of anhydrous dimethylformamide. 3.4 g of triethylamine (33.6 mmol) and 9.3 g of triphenylmethyl chloride (33.6 mmol) are added, and the mixture is stirred at room temperature under nitrogen for 4 hours. The mixture is poured onto crushed ice (60 g), which gives a white precipitate which is recrystallized from diethyl ether (9.2 g; 70%), giving 1-(triphenylmethyl)-4-(3-carboethoxypropyl)-1H-imidazole; m.p.: 134° C.

reactant | (3-Imidazol-4-yl)propionic acid | 42 mmol, 6 g | N1C=NC(=C1)CCC(=O)O | C6H8N2O2
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 4-(3-carboethoxypropyl)-1H-imidazole | C(=O)(OCC)CCCC=1N=CNC1 | C9H14N2O2
reactant | 4-(3-carboethoxypropyl)-1H-imidazole | 32 mmol, 5.4 g | C(=O)(OCC)CCCC=1N=CNC1 | C9H14N2O2
reactant | triethylamine | 33.6 mmol, 3.4 g | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 33.6 mmol, 9.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | ethanol | 204 ml | C(C)O | C2H6O
solvent | water | 45 ml | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(triphenylmethyl)-4-(3-carboethoxypropyl)-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O2
